US05965575
Step 1: 6-fluorochroman-8-carboxaldehyde
13.74 g (90.28 mmol) of 6-fluorochroman are dissolved in 250 ml of methylene chloride. The whole is cooled to 0° C. and 20.15 ml (0.18 mol) of TiCl4 are added dropwise. The solution becomes brown and is stirred for 10 minutes at room temperature. 8.78 ml (99.3 mmol) of α,α-dichloromethyl ether are then introduced. The whole is stirred overnight at room temperature, poured into ice-cold water and decanted. The organic phase is dried and evaporated to yield 17.7 g of a residue which is purified by chromatography on silica (eluant CH2Cl2 /cyclohexane: 50/50). 6.3 g of the expected product are obtained. Yield: 38.7%.

reactant | 6-fluorochroman | 90.28 mmol, 13.74 g | FC=1C=C2CCCOC2=CC1 | C9H9FO
reactant | α,α-dichloromethyl ether | 99.3 mmol, 8.78 ml | COC(Cl)Cl | C2H4Cl2O
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 0.18 mol, 20.15 ml | Cl[Ti](Cl)(Cl)Cl
product | 6-fluorochroman-8-carboxaldehyde | 17.7 g, Yield: 38.7% | FC=1C=C2CCCOC2=C(C1)C=O | C10H9FO2
